US06306818B1
To a solution of 10.72 g triphosgene in 80 ml dichloromethane, 26.51 g phenethyl alcohol was added. While cooling in an ice bath, 17.16 g pyridine was dropped in over 45 minutes. Then, the reaction was stirred at room temperature for 62 hours. The reaction was diluted with dichloromethane, washed with aqueous HCl and aqueous NaHCO3. The organic phase was dried, filtered and evaporated to dryness. The resulting crystals were recrystallized from 60 ml hexanes and then a second time from hexane:methyl t.-butyl ether (50 ml:50 ml) to yield 15.48 g of colorless crystals.

reactant | triphosgene | 10.72 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | phenethyl alcohol | 26.51 g | C(CC1=CC=CC=C1)O | C8H10O
reactant | pyridine | 17.16 g | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | butyl ether | 50 ml | C(CCC)OCCCC | C8H18O
